* =============================================================
* !!! ВНИМАНИЕ (2026-08-07): В ЭТОМ ДЕКЕ РАЗВЁРНУТ ТОК АНОДА !!!
* Строка `I_pmt 0 anode` ВЛИВАЕТ ток в анодный узел, тогда как физически
* анод ФЭУ его ЗАБИРАЕТ (электроны уходят из вывода в схему).
* Из-за этого дек даёт обратную полярность тракта, и именно отсюда пошла
* ошибочная конвенция «импульс на АЦП идёт вниз, amplitude = baseline - sample».
* Верное направление — как в sim_divider_complete.cir: `I_pmt P 0`.
* Актуальный расчёт полярности и запасов: sim_polarity_headroom.cir,
* новые смещения проверены в sim_bias_fixed.cir.
* Формы импульса и peaking factor из этого дека остаются в силе (знак на них не влияет).
* =============================================================
* sim2_shaper.cir  —  CR-RC² shaper transient analysis
* Gamma spectrometer ADC/MCU board v1.4
* =============================================================
*
* Full signal chain: PMT pulse -> AD8000 (x-15) -> OPAMP1 CR
*                   -> OPAMP2 RC -> OPAMP3 PGA x2 -> ADC
*
* What we verify:
*   - DC operating points (V_CR=0.5V, V_RC=0.5V, V_ADC=2.1V)
*   - Peaking factor = Delta_V(adc_in) / V_AD8000_peak = 0.36
*   - Peaking time  ~ 380 ns from pulse start
*   - Undershoot    ~ 7% of peak amplitude
*   - Polarity: pulse goes DOWN from baseline 2.1V (negative pulse at ADC)
*
* Libraries
* NOTE: AD8000 replaced by ideal inverting amp (opamp_g474 model) for this sim.
* AD8000 stability already validated in sim1. Here we only need gain x15.
.lib models/opamp_g474.sub

* =============================================================
* SUPPLIES
* =============================================================
VDD   VDD   0   DC  3.3     ; G474 OPAMP supply
VREF  VREF  0   DC  2.5     ; REF3025 reference

* =============================================================
* PMT PULSE MODEL (behavioral current source)
* R1307 + NaI(Tl): tau_d = 230 ns, current into anode node
* =============================================================
.param tau_d  = 230n
.param I_peak = 0.94m       ; Cs-137 (662 keV): 0.94 mA

* PMT pulse — smooth exponential, no discontinuity.
* EXP primitive: rises from 0 to I_peak with tau=5n, then decays with tau=tau_d.
I_pmt  0  anode  EXP(0 {I_peak} 500n 5n 505n {tau_d})

* Input termination + input resistance (real circuit Rg=100 in parallel with AD8000 Rin)
Rin    anode   0        50
Rg     anode   0        100    ; AD8000 input impedance (virtual GND ≈ 0V for ±5V supply)

* =============================================================
* AD8000: ideal inverting amplifier, gain = -Rfb/Rg = -1500/100 = -15
* Replaced with E source (infinite bandwidth).
* AD8000 stability + bandwidth validated in sim1.
* E source: V(amp_out) = -15 * V(anode) = gain*(V(0)-V(anode))
* =============================================================
E_ad8   amp_out   0   0   anode   15

* =============================================================
* DC BIAS DIVIDERS from REF3025 (2.5V)
* =============================================================
* Divider A: V_A = 0.5V for OPAMP1 + OPAMP2 VINP
Ra   VREF  vbias_a  8.2k    ; 8.2k to VREF
Rb   vbias_a  0     2k      ; 2k to GND  -> V_A = 2.5*2/(8.2+2) = 0.490V
Ca   vbias_a  0     100n    ; decoupling

* Divider B: V_B = 1.05V for OPAMP3 VINP
Rc   VREF  vbias_b  22k     ; 22k to VREF
Rd   vbias_b  0     5.9k    ; 5.9k to GND -> V_B = 2.5*5.9/(22+5.9) = 0.529V (PGA x4 -> V_out=2.116V)
Cb   vbias_b  0     100n

* =============================================================
* OPAMP1: CR high-pass (inverting)
* H_CR = -s*tau_diff / (1 + s*tau_diff)
* tau_diff = R_diff * C_diff = 10k * 100p = 1 us
* R_cr_in = R_diff required for correct pole: H = -Z_f/Z_in = -R_diff/(R_cr_in + 1/sC)
* IN+ = vbias_a (0.5V), IN- = cr_in, OUT = cr_out
* =============================================================
R_cr_in  amp_out  cr_mid  10k      ; input R: pole at 1/tau_diff = 1 MHz
C_diff   cr_mid   cr_in   100p     ; series C
R_diff   cr_out   cr_in   10k      ; feedback R, tau_diff = 1 us

XU1  vbias_a  cr_in  VDD  0  cr_out  opamp_g474

* =============================================================
* AC coupling OPAMP1 -> OPAMP2
* =============================================================
C_couple  cr_out   rc_node  100n   ; f_c = 1/(2pi*1k*100n) = 1.6 kHz

* =============================================================
* OPAMP2: RC integrator (inverting)
* tau_int = R_int * C_int = 1k * 510p = 510 ns
* IN+ = vbias_a (0.5V), IN- = rc_in, OUT = rc_out
* =============================================================
R_int    rc_node   rc_in   1k       ; input resistor
C_int    rc_out    rc_in   510p     ; feedback C, tau_int = 510 ns
R_stab   rc_out    rc_in   1k       ; pole at 1/tau_int = 1.96 MHz, DC gain = R_stab/R_int = 1

XU2  vbias_a  rc_in  VDD  0  rc_out  opamp_g474

* =============================================================
* AC coupling OPAMP2 -> OPAMP3
* =============================================================
C_buf_in  rc_out  pga_inp  100n    ; f_c = 1/(2pi*(22k||5.9k)*100n) = 342 Hz

* =============================================================
* OPAMP3: PGA x4 (non-inverting)
* gain = 1 + R_pga1/R_pga2 = 1 + 30k/10k = 4
* IN+ = pga_inp (0.529V DC), IN- = pga_inm (feedback), OUT = adc_in
* =============================================================
* DC bias for pga_inp: connect to vbias_b through divider impedance
* (C_buf_in provides signal; vbias_b provides DC via Thevenin)
Rbias_pga  vbias_b  pga_inp  4.65k  ; Thevenin R of divider B = 22k||5.9k

R_pga1   adc_in   pga_inm  30k     ; feedback resistor (gain x4)
R_pga2   pga_inm  0        10k     ; gain-setting resistor

XU3  pga_inp  pga_inm  VDD  0  adc_in  opamp_g474

* =============================================================
* TRANSIENT SIMULATION
* Run 8 us to see: 0.5us settling + 0.5us rise + ~6us pulse + undershoot
* 10n tstep: 800 output points, enough for 380ns peaking-time resolution
* =============================================================
.save V(amp_out) V(cr_out) V(rc_out) V(adc_in)
.tran 10n 8u

* =============================================================
* PARAMETRIC: step by energy level
* =============================================================
.step param I_peak list 0.084m 0.94m 1.88m 3.69m 4.97m
* Labels:                 Am-241  Cs-137  Co-60  Tl-208  3.5MeV

* =============================================================
* MEASUREMENTS
* =============================================================
.meas TRAN baseline_adc  AVG V(adc_in)    FROM 200n TO 400n
.meas TRAN baseline_amp  AVG V(amp_out)   FROM 200n TO 400n
.meas TRAN v_adc_min     MIN V(adc_in)    FROM 500n TO 4u
.meas TRAN v_amp_min     MIN V(amp_out)   FROM 500n TO 4u

.backanno
.end
